US04355164
To a mixture of 3.3 g (0.013 mol) of 3-carbomethoxy-4-hydroxy-7-methyl-pyrido[3',2':4,5]thieno[3,2-C]pyridazine, 3.8 g potassium bicarbonate, in 90 ml of anhydrous DMF was slowly added 9 ml of ethyl bromide and stirring was continued at 60°-70° C. for 3 hours. The solvent was then removed, the residue was diluted with water and filtered to give 3.4 g of crude product. Crystallization from EtoAc-hexane gave 1.8 g (46%) of pure 3-carbethoxy-4-ethoxy-7-methyl pyrido[3',2':4,5]thieno[3,2-C]pyridazine; m.p. 158°-160° C.

reactant | 3-carbomethoxy-4-hydroxy-7-methyl-pyrido[3',2':4,5]thieno[3,2-C]pyridazine | 0.013 mol, 3.3 g | C(=O)(OC)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)O | C12H9N3O3S
reactant | potassium bicarbonate | 3.8 g | C([O-])(O)=O.[K+]
reactant | ethyl bromide | 9 ml | C(C)Br | C2H5Br
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 3-carbethoxy-4-ethoxy-7-methyl pyrido[3',2':4,5]thieno[3,2-C]pyridazine | 1.8 g, 46% | C(=O)(OCC)C1=C(C2=C(N=N1)C1=C(S2)N=C(C=C1)C)OCC | C15H15N3O3S
